* c:\fossee2\esim\library\subcircuitlibrary\sc_sl74hc154\sc_sl74hc154.cir

.include 5_and.sub
* u10  net-_u1-pad18_ net-_u1-pad19_ net-_u10-pad3_ d_nor
* u9  net-_u1-pad19_ net-_u1-pad18_ net-_u9-pad3_ d_nor
x1 net-_u11-pad1_ net-_u2-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u12-pad1_ 5_and
x2 net-_u11-pad2_ net-_u2-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u13-pad1_ 5_and
x3 net-_u11-pad1_ net-_u6-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u14-pad1_ 5_and
x4 net-_u11-pad2_ net-_u6-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u15-pad1_ 5_and
x5 net-_u11-pad1_ net-_u2-pad2_ net-_u7-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u16-pad1_ 5_and
x6 net-_u11-pad2_ net-_u2-pad2_ net-_u7-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u17-pad1_ 5_and
x7 net-_u11-pad1_ net-_u6-pad2_ net-_u7-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u18-pad1_ 5_and
x8 net-_u11-pad2_ net-_u6-pad2_ net-_u7-pad2_ net-_u5-pad2_ net-_u10-pad3_ net-_u19-pad1_ 5_and
x9 net-_u11-pad1_ net-_u2-pad2_ net-_u4-pad2_ net-_u8-pad2_ net-_u10-pad3_ net-_u20-pad1_ 5_and
x10 net-_u11-pad2_ net-_u2-pad2_ net-_u4-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u21-pad1_ 5_and
x11 net-_u11-pad1_ net-_u6-pad2_ net-_u4-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u22-pad1_ 5_and
x12 net-_u11-pad2_ net-_u6-pad2_ net-_u4-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u23-pad1_ 5_and
x13 net-_u11-pad1_ net-_u2-pad2_ net-_u7-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u24-pad1_ 5_and
x14 net-_u11-pad2_ net-_u2-pad2_ net-_u7-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u25-pad1_ 5_and
x15 net-_u11-pad1_ net-_u6-pad2_ net-_u7-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u26-pad1_ 5_and
x16 net-_u11-pad2_ net-_u6-pad2_ net-_u7-pad2_ net-_u8-pad2_ net-_u9-pad3_ net-_u27-pad1_ 5_and
* u12  net-_u12-pad1_ net-_u1-pad1_ d_inverter
* u13  net-_u13-pad1_ net-_u1-pad2_ d_inverter
* u14  net-_u14-pad1_ net-_u1-pad3_ d_inverter
* u15  net-_u15-pad1_ net-_u1-pad4_ d_inverter
* u16  net-_u16-pad1_ net-_u1-pad5_ d_inverter
* u17  net-_u17-pad1_ net-_u1-pad6_ d_inverter
* u18  net-_u18-pad1_ net-_u1-pad7_ d_inverter
* u19  net-_u19-pad1_ net-_u1-pad8_ d_inverter
* u20  net-_u20-pad1_ net-_u1-pad9_ d_inverter
* u21  net-_u21-pad1_ net-_u1-pad10_ d_inverter
* u22  net-_u22-pad1_ net-_u1-pad11_ d_inverter
* u23  net-_u23-pad1_ net-_u1-pad13_ d_inverter
* u24  net-_u24-pad1_ net-_u1-pad14_ d_inverter
* u25  net-_u25-pad1_ net-_u1-pad15_ d_inverter
* u26  net-_u26-pad1_ net-_u1-pad16_ d_inverter
* u27  net-_u27-pad1_ net-_u1-pad17_ d_inverter
* u3  net-_u1-pad23_ net-_u11-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u2  net-_u1-pad22_ net-_u2-pad2_ d_inverter
* u6  net-_u2-pad2_ net-_u6-pad2_ d_inverter
* u4  net-_u1-pad21_ net-_u4-pad2_ d_inverter
* u7  net-_u4-pad2_ net-_u7-pad2_ d_inverter
* u5  net-_u1-pad20_ net-_u5-pad2_ d_inverter
* u8  net-_u5-pad2_ net-_u8-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ? net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ ? port
a1 [net-_u1-pad18_ net-_u1-pad19_ ] net-_u10-pad3_ u10
a2 [net-_u1-pad19_ net-_u1-pad18_ ] net-_u9-pad3_ u9
a3 net-_u12-pad1_ net-_u1-pad1_ u12
a4 net-_u13-pad1_ net-_u1-pad2_ u13
a5 net-_u14-pad1_ net-_u1-pad3_ u14
a6 net-_u15-pad1_ net-_u1-pad4_ u15
a7 net-_u16-pad1_ net-_u1-pad5_ u16
a8 net-_u17-pad1_ net-_u1-pad6_ u17
a9 net-_u18-pad1_ net-_u1-pad7_ u18
a10 net-_u19-pad1_ net-_u1-pad8_ u19
a11 net-_u20-pad1_ net-_u1-pad9_ u20
a12 net-_u21-pad1_ net-_u1-pad10_ u21
a13 net-_u22-pad1_ net-_u1-pad11_ u22
a14 net-_u23-pad1_ net-_u1-pad13_ u23
a15 net-_u24-pad1_ net-_u1-pad14_ u24
a16 net-_u25-pad1_ net-_u1-pad15_ u25
a17 net-_u26-pad1_ net-_u1-pad16_ u26
a18 net-_u27-pad1_ net-_u1-pad17_ u27
a19 net-_u1-pad23_ net-_u11-pad1_ u3
a20 net-_u11-pad1_ net-_u11-pad2_ u11
a21 net-_u1-pad22_ net-_u2-pad2_ u2
a22 net-_u2-pad2_ net-_u6-pad2_ u6
a23 net-_u1-pad21_ net-_u4-pad2_ u4
a24 net-_u4-pad2_ net-_u7-pad2_ u7
a25 net-_u1-pad20_ net-_u5-pad2_ u5
a26 net-_u5-pad2_ net-_u8-pad2_ u8
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u10 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u9 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
